US06545017B1
N-[3-(4-amino-2-ethoxymethyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N′-(2-furoyl)thiourea
Using the method of Examples 94-105, 2-furoylisothiocyanate was reacted with 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 431.1846.

reactant | 2-furoylisothiocyanate | O1C(=CC=C1)C(=O)N=C=S | C6H3NO2S
reactant | 1-(3-aminopropyl)-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)COCC | C14H23N5O
product | N-[3-(4-amino-2-ethoxymethyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N′-(2-furoyl)thiourea | NC1=NC(=C(C2=C1N=C(N2CCCNC(=S)NC(=O)C=2OC=CC2)COCC)C)C | C20H26N6O3S
